US08975254B2
a) (S)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile
2-Chloro-4-(1H-pyrazol-3-yl)benzonitrile (1.06 g, 4.40 mmol), N-Boc-(S)-(−)-2-amino-1-butanol (1.0 g, 5.28 mmol) and triphenylphosphine (1.73 g, 6.61 mmol) were dissolved in 15 ml of dry THF under nitrogen atmosphere. DIAD (1.73 ml; 8.81 mmol) was added slowly by syringe to cooled (0° C.) reaction mixture. After being stirred overnight at RT, the reaction mixture was evaporated to dryness. The evaporation residue was dissolved in 20 ml of 10% HCl (g)/EtOH-solution and stirred at RT overnight to induce Boc-deprotection. Solvents were evaporated and the evaporation residue was taken up in water and brine. Thus obtained solution was washed twice with DCM, made alkaline (pH˜12) by adding 2 M NaOH-solution, and extracted twice with DCM. The latter organic extracts were combined, dried over Na2SO4, filtered and evaporated to give 568 mg (47%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ0.87-0.94 (m, 3H), 1.10-1.45 (m, 2H), 2.97-3.05 (m. 1H), 4.01 (dd, 1H), 4.13 (dd, 1H), 4.68-4.86 (m, 1H), 6.97 (d, 1H), 7.86 (d, 1H), 7.95 (dd, 1H), 7.97 (dd, 1H), 8.10-8.12 (m, 1H). MS [M+1]: m/z [274.8+1].

reactant | 2-Chloro-4-(1H-pyrazol-3-yl)benzonitrile | 4.40 mmol, 1.06 g | ClC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C10H6ClN3
reactant | N-Boc-(S)-(−)-2-amino-1-butanol | 5.28 mmol, 1.0 g | C(=O)(OC(C)(C)C)N[C@H](CO)CC | C9H19NO3
reactant | triphenylphosphine | 6.61 mmol, 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 8.81 mmol, 1.73 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (S)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 568 mg, 47% | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)CC | C14H15ClN4
